US07119207B2
8-Fluoro-6-methoxy-1,4,4-trimethyl-3,4-dihydro-1H-quinolin-2-one-7-carboxaldehyde
To a flame dried round bottom flask equipped with a nitrogen cap was added 74 mg (0.312 mmol) 8-fluoro-6-methoxy-1,4,4-trimethyl-3,4-dihydro-1H-quinolin-2-one, 3 ml of trifluoroacetic acid and 53 mg (0.38 mmol) of hexamethylene tetraamine. The mixture was stirred under reflux for 16 hours and then cooled to ambient temperature. The reaction mixture was quenched first with water and then 30 ml of saturated aqueous bicarbonate solution and extracted with ethyl acetate (3×30 ml). The combined organics were then washed with brine followed by drying over sodium sulfate and evaporation in vacuo. The crude product was purified on silica gel eluting with ethyl acetate to afford 43 mg (52%) of the desired product. Mass spectrum APCI m/e 266 (p+1).

reactant | 8-fluoro-6-methoxy-1,4,4-trimethyl-3,4-dihydro-1H-quinolin-2-one | 0.312 mmol, 74 mg | FC=1C=C(C=C2C(CC(N(C12)C)=O)(C)C)OC | C13H16FNO2
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hexamethylene tetraamine | 0.38 mmol, 53 mg | C1N2CN3CN1CN(C2)C3 | C6H12N4
product | 8-Fluoro-6-methoxy-1,4,4-trimethyl-3,4-dihydro-1H-quinolin-2-one-7-carboxaldehyde | 43 mg, 52% | FC=1C(=C(C=C2C(CC(N(C12)C)=O)(C)C)OC)C=O | C14H16FNO3
